US07786165B2
4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde
4-Bromo-3,5-dimethylphenol (10.3 g, 51.0 mmol) and (3-formylphenyl)boronic acid (7.67 g, 51.2 mmol) were dissolved in a mixture of 1 M aqueous sodium carbonate solution (150 mL), ethanol (50 mL) and toluene (150 mL), and the air was substituted with argon gas. Tetrakis(triphenylphosphine)palladium(0) (2.95 g, 2.55 mmol) was added and the mixture was stirred under an argon atmosphere at 80° C. for 24 hr. After cooling the reaction mixture, water was added and the mixture was diluted with ethyl acetate. The insoluble material was filtered off through celite. The organic layer in the filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10%-40% ethyl acetate/hexane) to give the title compound (9.53 g, yield 83%) as pale-yellow crystals.

reactant | 4-Bromo-3,5-dimethylphenol | 51.0 mmol, 10.3 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | (3-formylphenyl)boronic acid | 51.2 mmol, 7.67 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | water | O | H2O
solvent | sodium carbonate | 1 M, 150 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 2.55 mmol, 2.95 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-hydroxy-2′,6′-dimethylbiphenyl-3-carbaldehyde | 9.53 g, yield 83% | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)C=O)C | C15H14O2
